US07786115B2
4-Methyl-3-[1-oxo-7-(2-piperidin-1-ylethoxy)isoquinolin-2(1H)-yl]benzoic acid (439 mg) was dissolved in methylene chloride (5 ml) and DMF (3 drops) and cooled to 0° C. under an argon atmosphere. Oxalyl chloride (0.19 ml) was added and the reaction mixture stirred at room temperature for 2 hours. Pyridine (0.90 ml) and 3-aminoisoxazole (0.40 ml) were added and the reaction mixture stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with 1N NaOH, dried (magnesium sulfate) and concentrated. Purification by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give a solid. The solid was triturated with ethyl acetate to give N-isoxazol-3-yl-4-methyl-3-[1-oxo-7-(2-piperidin-1-ylethoxy)isoquinolin-2(1H)-yl]benzamide as a solid (95 mg); NMR Spectrum: (DMSOd6) 1.40 (m, 2H), 1.45 (m, 4H), 2.15 (s, 3H), 2.49 (m, 4H), 2.70 (m, 2H), 4.15 (m, 2H), 6.75 (d, 1H), 7.05 (d, 1H), 7.25 (d, 1H), 7.43 (d, 1H), 7.60 (d, 1H), 7.68 (d, 1H), 7.73 (d, 1H), 8.00 (s, 1H), 8.05 (d, 1H), 8.85 (s, 1H), 11.50 (s, 1H); Mass Spectrum: M+H+ 473.

reactant | 4-Methyl-3-[1-oxo-7-(2-piperidin-1-ylethoxy)isoquinolin-2(1H)-yl]benzoic acid | 439 mg | CC1=C(C=C(C(=O)O)C=C1)N1C(C2=CC(=CC=C2C=C1)OCCN1CCCCC1)=O | C24H26N2O4
reactant | Oxalyl chloride | 0.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyridine | 0.90 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-aminoisoxazole | 0.40 ml | NC1=NOC=C1 | C3H4N2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-isoxazol-3-yl-4-methyl-3-[1-oxo-7-(2-piperidin-1-ylethoxy)isoquinolin-2(1H)-yl]benzamide | 95 mg | O1N=C(C=C1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OCCN1CCCCC1)=O)=O | C27H28N4O4
